US06255318B1
Compound #67 7,8-Dihydro-isoquinoline-6-carboxylic acid phenethyl-amide;
Compound #68 7,8-Dihydro-isoquinoline-6-carboxylic acid [2-(1H-indol-3-yl)-ethyl-amide; and

reactant | 7,8-Dihydro-isoquinoline-6-carboxylic acid | C1=NC=CC=2C=C(CCC12)C(=O)O | C10H9NO2
reactant | 2-(1H-indol-3-yl)-ethyl-amide | N1C=C(C2=CC=CC=C12)CC[NH-]
product | 7,8-Dihydro-isoquinoline-6-carboxylic acid phenethyl-amide | C(CC1=CC=CC=C1)NC(=O)C1=CC=2C=CN=CC2CC1 | C18H18N2O
